US08207373B2
Stage 1: (4-benzoyl-phenyl)-(2-nitro-phenyl)-amine
The product (770 mg) is obtained according to the method of stage 1 of Example 4, by using 1.5 mL of 2-fluoro-nitrobenzene and 4.2 g of 4-aminobenzophenone in the presence of 2.54 g of potassium tert-butanolate in 40 mL of DMSO.

reactant | 2-fluoro-nitrobenzene | 1.5 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-aminobenzophenone | 4.2 g | NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H11NO
reactant | potassium tert-butanolate | 2.54 g | C(C)(C)(C)[O-].[K+]
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | (4-benzoyl-phenyl)-(2-nitro-phenyl)-amine | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C19H14N2O3
